US03980643
In 150 ml of absolute benzene there were dissolved 2.88 g of 1-piperazinepropanol, 3.2 g of isonicotinic acid and 30.4 g of p-toluene sulfonic acid. The resulting solution was heated for 15 hours to reflux while removing the formed water. The reaction liquid was cooled, washed with 15% potassium carbonate and then extracted with 10% hydrochloric acid. After the aqueous layer was washed with ether, the system was rendered alkaline with potassium carbonate and then extracted with ether. After the ethereal layer was dehydrated with a Glauber's salt, the ether was distilled off. The resultant residue was subjected to chromatography using silica gel to obtain a colorless transparent liquid. This liquid was converted to the hydrochloride thereof in accordance with a conventional manner. It was recrystallized from ethanol to give 1-piperazinepropanol isonicotinate hydrochloride. The melting point of the product was 201°-202°C. The Yield was 66%.

reactant | 1-piperazinepropanol | 2.88 g | N1(CCNCC1)CCCO | C7H16N2O
reactant | isonicotinic acid | 3.2 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | p-toluene sulfonic acid | 30.4 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | hydrochloride | Cl | ClH
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-piperazinepropanol isonicotinate hydrochloride | Yield was 66% | Cl.C(C1=CC=NC=C1)(=O)OCCCN1CCNCC1 | InChI=1S/C13H19N3O2.ClH/c17-13(12-2-4-14-5-3-12)18-11-1-8-16-9-6-15-7-10-16;/h2-5,15H,1,6-11H2;1H
